US08017611B2
A suspension of 3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (0.3 g), tert-butyl 4-(4-bromo-3-formyl-pyrazol-1-yl)piperidine-1-carboxylate (0.362 g), potassium carbonate (0.335 g) and tetrakis(triphenylphosphine) palladium (0.093 g) in degassed acetonitrile (50 mL) was stirred at reflux overnight. The resulting suspension was cooled to ambient temperature, filtered, washed with dichloromethane (3×20 ml) and the filtrate was concentrated. The crude product was purified by flash chromatography on silica gel eluting with 5 to 90% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate (0.370 g) as a solid. NMR Spectrum: (DMSOd6) 1.44 (s, 9H), 1.87 (dd, 1H), 1.92 (dd, 1H), 2.09-2.18 (m, 2H), 2.97 (bs, 2H), 4.04-4.16 (m, 2H), 4.52-4.61 (m, 1H), 7.41-7.49 (m, 2H), 7.80 (dd, 1H), 7.82 (bs, 2H), 7.85 (dd, 1H), 8.48 (s, 1H), 8.56 (d, 1H), 8.65 (d, 1H), 9.99 (s, 1H); Mass spectrum: M+H+ 489.

reactant | 3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.3 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N | C18H20BN3O3
reactant | tert-butyl 4-(4-bromo-3-formyl-pyrazol-1-yl)piperidine-1-carboxylate | 0.362 g | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O | C14H20BrN3O3
reactant | potassium carbonate | 0.335 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine) palladium | 0.093 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-formyl-pyrazol-1-yl]piperidine-1-carboxylate | 0.370 g | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O)C=1OC2=C(N1)C=CC=C2 | C26H28N6O4
